US08383635B2
N-[3-({2-[(3-aminopropyl)amino]-5-oxo-5,6-dihydropyrido[4,3-d]pyrimidin-4-yl}amino)phenyl]-1-pyrrolidinecarboxamide
The compound was prepared from N-(3-{[2-(methylthio)-5-oxo-5,6-dihydropyrido[4,3-d]pyrimidin-4-yl]amino}phenyl)-1-pyrrolidinecarboxamide using mCPBA/1,1-dimethylethyl (3-aminopropyl)carbamate and TFA sequences similar to that described for Example 1 (Scheme 2).

reactant | N-(3-{[2-(methylthio)-5-oxo-5,6-dihydropyrido[4,3-d]pyrimidin-4-yl]amino}phenyl)-1-pyrrolidinecarboxamide | CSC=1N=C(C2=C(N1)C=CNC2=O)NC=2C=C(C=CC2)NC(=O)N2CCCC2 | C19H20N6O2S
reactant | mCPBA 1,1-dimethylethyl (3-aminopropyl)carbamate | C1=CC(=CC(=C1)Cl)C(=O)OO.NCCCNC(OC(C)(C)C)=O
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
product | N-[3-({2-[(3-aminopropyl)amino]-5-oxo-5,6-dihydropyrido[4,3-d]pyrimidin-4-yl}amino)phenyl]-1-pyrrolidinecarboxamide | NCCCNC=1N=C(C2=C(N1)C=CNC2=O)NC=2C=C(C=CC2)NC(=O)N2CCCC2 | C21H26N8O2
